US05154851
4-Ethynyl-4'-propylbiphenyl (prepared according to the method disclosed in Japanese patent application laid-open No. Sho 58-110527/1983) (2.2 g, 0.01 mol) and 4-(1-propynyl)iodobenzene (2.4 g, 0.01 mol) were dissolved in diethylamine (20 ml), and then copper iodide (0.11 g, 0.15 mmol) and dichlorobistriphenylphosphinepalladium dichloride (0.21 g, 0.3 mmol) were added. The resulting mixture was subjected to reaction and purification operation in the same manner as in Example 1, to obtain the objective 4-(4-propylphenyl)-4'-(1-propynyl)tolan (compound

reactant | 4-Ethynyl-4'-propylbiphenyl | C(#C)C1=CC=C(C=C1)C1=CC=C(C=C1)CCC | C17H16
reactant | 4-(1-propynyl)iodobenzene | 0.01 mol, 2.4 g | C(#CC)C1=CC=C(C=C1)I | C9H7I
reactant | diethylamine | 20 ml | C(C)NCC | C4H11N
catalyst | copper iodide | 0.15 mmol, 0.11 g | [Cu](I)I
product | 4-(4-propylphenyl)-4'-(1-propynyl)tolan | C(CC)C1=CC=C(C=C1)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C#CC | C26H22
